US04714492
25 gms of ethyl 4-fluorobenzoylacetate was dissolved in 250 gms of 1:10 P2O5 /methanesulfonic acid and heated at 45° for 4 days. The mixture was cooled, poured into 1200 mls of water and extracted with (3×100 mls) methylene chloride. Evaporation of the solvent and chromatography of the resulting oil (silica gel/ether) provided 12.9 gms of crystalline 2,6-di(4'-fluorophenyl)-3-ethoxycarbonyl-pyr-4-one. mp=113-4.

reactant | ethyl 4-fluorobenzoylacetate | 25 gms | FC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11FO3
reactant | water | 1200 mls | O | H2O
solvent | P2O5 methanesulfonic acid | 250 gms | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3.CS(=O)(=O)O
product | 2,6-di(4'-fluorophenyl)-3-ethoxycarbonyl-pyr-4-one | 12.9 gms | FC1=CC=C(C=C1)C=1OC(=CC(C1C(=O)OCC)=O)C1=CC=C(C=C1)F | C20H14F2O4
